US05202356
To naphthoic acid (50 g) (ex Aldrich) in glacial acetic acid at reflux was added a few drops of bromine (ex BDH) followed by iodine (0.5 g) (ex (BDH). Bromine (15 ml) was added dropwise over one hour. The mixture was cooled to 25° and stirred there for 18 hours. The resulting white precipitate was filtered, dissolved in hot water and treated with concentrated hydrochloric acid. The precipitate was filtered and dried (over phosphorus pentoxide (ex BDH) to give 5-bromo-2-napthoic acid (recrystallised from ethanol) (28 g). Melting point 261°-2°. NMR 1H:(DMSO,CDCl3), 8.60(1H,s), 8.00(5H,m), 7.40(1H,m).

reactant | naphthoic acid | 50 g | C=1C=CC=2C(C1)=CC=CC2C(=O)O | C11H8O2
reactant | iodine | 0.5 g | II | I2
reactant | Bromine | 15 ml | BrBr | Br2
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | bromine | a few drops | BrBr | Br2
product | 5-bromo-2-napthoic acid | 28 g | BrC1=C2C=CC(=CC2=CC=C1)C(=O)O | C11H7BrO2
